US07501422B2
2-(4-{(2S,4S)-1-(3-Chloro-benzyl)-4-[5-(2,4-difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile
As described for Example 1e, 2-(4-{4-[5-(2,4-difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile (60 mg, 0.13 mmol) was converted, using 3-chloro-benzaldehyde (20 mg, 0.14 mmol) instead of benzaldehyde, to the title compound (7.7 mg, 10%) as light yellow oil. MS m/e=589.1 (75%); 591.1 (25%) [M+H]+.

reactant | 2-(4-{4-[5-(2,4-difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile | 0.13 mmol, 60 mg | FC1=C(C=CC(=C1)F)C=1N=NN(N1)C1CC(NC1)C(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C23H22F2N8O
reactant | 3-chloro-benzaldehyde | 0.14 mmol, 20 mg | ClC=1C=C(C=O)C=CC1 | C7H5ClO
product | 2-(4-{(2S,4S)-1-(3-Chloro-benzyl)-4-[5-(2,4-difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile | 7.7 mg, 10% | ClC=1C=C(CN2[C@@H](C[C@@H](C2)N2N=C(N=N2)C2=C(C=C(C=C2)F)F)C(=O)N2CCN(CC2)C2=C(C#N)C=CC=C2)C=CC1 | C30H27ClF2N8O
